US07220869B2
Preparation of Caprolactam Chloroacetate
To a 100 ml flask containing 11.32 g of ε-caprolactam (0.1 mol), 30 ml benzene was added and stirred for dissolution. Then 9.45 g of chloroacetic acid (0.1 mol) in 20 ml benzene was added dropwise into the flask over 20 min at room temperature. Then the reaction was stirred for another 7 hours. Desired product was formed after benzene was removed under reduced pressure and dried at 110° C. under 1–5 mmHg for 1 hour. The yellowish, moisture- and water-stable liquid of caprolactam chloroacetate was obtained with a yield of 95.9%, which has an ionic conductivity of 2.9×10−5 S/cm, a glass transition temperature of −67° C., and a Hammett acidic scale H0 of 5.03 using methyl yellow as indicator. After several days, it changed into a yellowish solid with melting point of 29° C.

reactant | ε-caprolactam | 0.1 mol, 11.32 g | C1(CCCCCN1)=O | C6H11NO
reactant | chloroacetic acid | 0.1 mol, 9.45 g | ClCC(=O)O | C2H3ClO2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | Caprolactam Chloroacetate | ClCC(=O)O.C1(CCCCCN1)=O | InChI=1S/C6H11NO.C2H3ClO2/c8-6-4-2-1-3-5-7-6;3-1-2(4)5/h1-5H2,(H,7,8);1H2,(H,4,5)
